US05416013
A. Synthesis of Boc-Asp-CH2F.
A suspension of Boc-Asp-OH (8.11 mmol) and fluoroacetic anhydride (16.2 mmol) in benzene (30 ml) was treated with triethylamine (16.2 mmol) at room temperature. The catalyst 4-dimethylaminopyridine (0.41 mmol) was added to the solution and the reaction stirred for about 2 h at room temperature. About 100 ml benzene was added to the reaction mixture. The organic solution was washed with 1N HCl (2×50 ml), saturated NaHCO3 (2×50 ml), and saturated NaCl (2×50 ml), followed by drying over anhydrous MgSO4. The solvent was then removed by evaporation under reduced pressure. The resulting oil was applied to a 2.5×80 cm column of silica gel (60-200 mesh). The title compound was eluded with 2% methanol in chloroform.

reactant | Boc-Asp-OH | 8.11 mmol | N([C@@H](CC(O)=O)C(=O)O)C(=O)OC(C)(C)C | C9H15NO6
reactant | fluoroacetic anhydride | 16.2 mmol | FCC(=O)OC(CF)=O | C4H4F2O3
reactant | triethylamine | 16.2 mmol | C(C)N(CC)CC | C6H15N
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
catalyst | 4-dimethylaminopyridine | 0.41 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | Boc-Asp-CH2F | N([C@@H](CC(O)=O)C(=O)CF)C(=O)OC(C)(C)C | C10H16FNO5
